US09085555B2
B. 3-Bromo-5-(1H-tetrazol-5-yl)-phenylamine hydrochloride
To a solution of 3-amino-5-bromo-benzonitrile (200 mg, 1.02 mmol) in toluene (2 mL) was added 6N HCl (0.220 mL, 1.32 mmol), triethylamine (0.184 mL, 1.32 mmol) and sodium azide (86.0 mg, 1.32 mmol). The reaction mixture was stirred at 100° C. for 30 min in a microwave apparatus (Personal Chemistry, Biotage), and after cooling to RT was then diluted with CH2Cl2/MeOH (4:1) and washed with 10 mL of water. The organic phase was discarded, and the water phase was acidified to pH=1 by adding 12N HCl. The aqueous layer was freeze-dried overnight to afford the title compound as a yellowish solid. MS (LC/MS): 239.3 [M+H]+; tR (HPLC conditions c): 3.23 min.

reactant | 3-amino-5-bromo-benzonitrile | 1.02 mmol, 200 mg | NC=1C=C(C#N)C=C(C1)Br | C7H5BrN2
reactant | HCl | 1.32 mmol, 6N, 0.220 mL | Cl | ClH
reactant | triethylamine | 1.32 mmol, 0.184 mL | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 1.32 mmol, 86.0 mg | [N-]=[N+]=[N-].[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 3-Bromo-5-(1H-tetrazol-5-yl)-phenylamine hydrochloride | Cl.BrC=1C=C(C=C(C1)C1=NN=NN1)N | InChI=1S/C7H6BrN5.ClH/c8-5-1-4(2-6(9)3-5)7-10-12-13-11-7;/h1-3H,9H2,(H,10,11,12,13);1H
